US05811439
The same procedures used in Example 17 were repeated except for using 870 mg of indole-3-carbaldehyde and 4-fluorobenzenesulfonyl chloride instead of the benzenesulfonyl chloride used in Example 17 to give 1.73 g of 1-(4-fluorobenzenesulfonyl)indole-3-carbaldehyde as brown crystals. The yield thereof was found to be 95%.

reactant | indole-3-carbaldehyde | 870 mg | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 1-(4-fluorobenzenesulfonyl)indole-3-carbaldehyde | 1.73 g | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C=O | C15H10FNO3S
